US06960594B2
Compound XV: 5-(N′-tert-Butoxycarbonyl-hydrazinocarbonyl)-thiophene-2-carboxylic acid methyl ester.
With continued reference to Scheme I, di tert-butyl dicarbonate (188 mg, 0.861 mmol) and DIPEA (170 μl, 0.976 mmol) were sequentially added to a stirring mixture of Compound 5-Hydrazinocarbonyl-thiophene-2-carboxylic acid methyl ester (115 mg, 0.575 mmol) in anhydrous DMF (2.0 ml) at 0° C. The resulting mixture was allowed to stir at room temperature overnight. The solvent was removed under vacuum and the resulting residue subjected to a silica gel chromatography using Hexane: EtOAc (1:1) to give the desired product as a white solid (107.7 mg, 62.4%) 1H NMR in DMSO-d6 1.42 (s, 9H), 3.84 (s, 3H), 7.72-7.88 (m, 2H), 9.06 (bs, 1H), 10.5 (bs, 1H);

reactant | di tert-butyl dicarbonate | 0.861 mmol, 188 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 0.976 mmol, 170 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Hydrazinocarbonyl-thiophene-2-carboxylic acid methyl ester | 0.575 mmol, 115 mg | COC(=O)C=1SC(=CC1)C(=O)NN | C7H8N2O3S
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 5-(N′-tert-Butoxycarbonyl-hydrazinocarbonyl)-thiophene-2-carboxylic acid methyl ester | 107.7 mg, 62.4% | COC(=O)C=1SC(=CC1)C(=O)NNC(=O)OC(C)(C)C | C12H16N2O5S
